US07919506B2
Step E: Preparation of (S)-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-phenyl]-methanol
To a solution of (S)-tert-butyl-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzyloxy]-dimethyl-silane (1.13 g, 2.4 mmol) in THF (5 ml) was added a solution of tetrabutylammonium fluoride (4.8 ml, 1 M, 4.8 mmol) at room temperature and stirred for overnight. The reaction mixture was concentrated in vacuo and purified on Biotage column 25+M, eluting with 0-30% ethyl acetate in heptane (10 CV), 30% (2 CV) to yield the title compound (0.6 g, 73%) as colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 0.8 m (m, 2H) 1.1 (m, 4H) 1.3 (m, 1H) 1.5 (m, 2H) 1.6 (m, 1H) 2.0 (d, J=12.9, 1H) 2.3 (m, 1H) 3.1 (s, 3H) 4.0 (d, J=7.9, 1H) 4.7 (dd, J=13.7 & 7.5 Hz, 2H) 7.3 (d, J=8.3 Hz, 1H) 7.4 (d, J=7.8 Hz, 1H) 7.7 (s, 1H).

reactant | (S)-tert-butyl-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzyloxy]-dimethyl-silane | 2.4 mmol, 1.13 g | C(C)(C)(C)[Si](C)(C)OCC1=C(C=CC(=C1)C(F)(F)F)[C@@H](OC)C1CCCCC1 | C22H35F3O2Si
reactant | tetrabutylammonium fluoride | 4.8 mmol, 1 M, 4.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-phenyl]-methanol | 0.6 g, 73% | C1(CCCCC1)[C@@H](C1=C(C=C(C=C1)C(F)(F)F)CO)OC | C16H21F3O2
